US06759428B2
To a solution of 4-[2-cyano-2-({(1R,2S)-2-[(1-methyl-1H-indole-2-carbonyl)-amino]-cyclohexanecarbonyl}-amino)-ethyl]-piperidine-1-carboxylic acid tert-butyl ester (1.20 g, 2.24 mmol) in 20 mL of CH2Cl2, was added TFA (4.0 mL, 52 mmol). The reaction mixture was stirred at ambient temperature for 4 hours, concentrated, poured into an aqueous sodium bicarbonate solution, extracted with ethyl acetate, dried with sodium sulfate, and concentrated to give 541 mg (55%) of 1-methyl-1H-indole-2-carboxylic acid {(1S,2R)-2-[(cyano-piperidin-4-ylmethyl-methyl)-carbamoyl]-cyclohexyl}-amide as a pale-yellow amorphous material. MS: 436 (M+H+).

reactant | 4-[2-cyano-2-({(1R,2S)-2-[(1-methyl-1H-indole-2-carbonyl)-amino]-cyclohexanecarbonyl}-amino)-ethyl]-piperidine-1-carboxylic acid tert-butyl ester | 2.24 mmol, 1.20 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(NC(=O)[C@H]1[C@H](CCCC1)NC(=O)C=1N(C2=CC=CC=C2C1)C)C#N | C30H41N5O4
reactant | TFA | 52 mmol, 4.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-methyl-1H-indole-2-carboxylic acid {(1S,2R)-2-[(cyano-piperidin-4-ylmethyl-methyl)-carbamoyl]-cyclohexyl}-amide | 541 mg, 55% | C(#N)C(CC1CCNCC1)NC(=O)[C@H]1[C@H](CCCC1)NC(=O)C=1N(C2=CC=CC=C2C1)C | C25H33N5O2
